US04711888
2-Dimethylamino-4-methyl-5-benzyloxypyrimidine (R1 =R2 =R4 =CH3 ; R3 =H; R5 =benzyl)
Potassium hydroxide (85%, 2.64 g, 40 mmol) was powdered and added to 20 ml of DMSO at room temperature. 2-Dimethylamino-4-methyl-5-hydroxypyrimidine (1.53 g, 10 mmol) was added and the reaction mixture stirred for 5 minutes at room temperature. Benzylbromide (1.2 ml, 10 mmol) was added and the reaction mixture after stirring for a half hour at room temperature was poured into 50 ml of water. The reaction mixture was extracted four times with 50 ml hexane portions. The combined hexane extracts were dried over Na2SO4, filtered, and evaporated. Recrystallization of the formed solid from hexane yielded 1.8 g (75% yield) of the title compound as pale yellow crystals, m.p. 73° to 74° C.

reactant | Potassium hydroxide | 40 mmol, 2.64 g | [OH-].[K+]
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
reactant | 2-Dimethylamino-4-methyl-5-hydroxypyrimidine | 10 mmol, 1.53 g | CN(C1=NC=C(C(=N1)C)O)C | C7H11N3O
reactant | Benzylbromide | 10 mmol, 1.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 50 ml | O | H2O
product | 2-Dimethylamino-4-methyl-5-benzyloxypyrimidine | 1.8 g, 75% yield | CN(C1=NC=C(C(=N1)C)OCC1=CC=CC=C1)C | C14H17N3O
